US05977400
Di-phenanthen-9-yl-methanol (24.5 g, 63 mmol) was suspended in CH2Cl2 (100 ml). Trifluoroacetic acid (40 mL) was added dropwise under an atmosphere of nitrogen over a period of 10 minutes, forming a yellow suspension. This was stirred at room temperature under nitrogen for 20 minutes after which time excess solvent was removed in vacuo. The resulting yellow solid was suspended in CH2Cl2 (100 mL) and reconcentrated (5 times). The residue was then washed with diethyl ether to give 1H-tetrabenzo[a,c,g,i]fluorene as a bright yellow solid (16.4 g, 45 mmol, 70%).

reactant | Di-phenanthen-9-yl-methanol | 63 mmol, 24.5 g | C1=CC=CC=2C3=CC=CC=C3C(=CC12)C(O)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C29H20O
reactant | Trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 1H-tetrabenzo[a,c,g,i]fluorene | 45 mmol, 16.4 g, 70% | C1C=CC=C2C3=C(C4=C5C6=C(C7=C(C5=CC4=C21)C=CC=C7)C=CC=C6)C=CC=C3 | C29H18
